US06495546B1
Under nitrogen, to a solution of 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamine (330 mg) and (2S)-1-phenylthio-2,3-epoxypropane (290 mg) in dichloromethane (5 ml) was added ytterbium(III) trifluoromethanesulfonate (110 mg) at room temperature, and the mixture was stirred at the same temperature for 24 hours. The resulting mixture was poured into saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform:methanol=50:1 to 20:1) followed by treatment with 4N hydrogen chloride in ethyl acetate to give (2S)-1-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amino-3-phenylthio-2-propanol hydrochloride (360 mg).

reactant | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamine | 330 mg | COC1=CC2=C(CCCC(C2)N)C=C1 | C12H17NO
reactant | (2S)-1-phenylthio-2,3-epoxypropane | 290 mg | C1(=CC=CC=C1)SC[C@@H]1CO1 | C9H10OS
reactant | ytterbium(III) trifluoromethanesulfonate | 110 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S)-1-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amino-3-phenylthio-2-propanol hydrochloride | 360 mg | Cl.COC1=CC2=C(CCCC(C2)NC[C@@H](CSC2=CC=CC=C2)O)C=C1 | InChI=1S/C21H27NO2S.ClH/c1-24-20-11-10-16-6-5-7-18(12-17(16)13-20)22-14-19(23)15-25-21-8-3-2-4-9-21;/h2-4,8-11,13,18-19,22-23H,5-7,12,14-15H2,1H3;1H/t18?,19-;/m0./s1
